US08349824B2
A mixture of 1-methyl-5-(2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (100 mg, 223 μmol), 3-fluoroazetidine hydrochloride (74.7 mg, 669 μmol), propylphosphonic anhydride (50% in ethyl acetate, 329 μl, 558 μmol) and N,N-diisopropylethylamine (228 μl, 1.34 mmol) in tetrahydrofurane (7 ml) is stirred for 18 hours room temperature. The solvent is evaporated and the residue triturated with sat. aqueous sodium bicarbonate solution. The solid is collected by filtration, washed with water and dried affording 4-(3-fluoroazetidine-1-carbonyl)-1-methyl-N-(2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-5-carboxamide (36 mg, 37.3%) as a light brown solid. mp.: 247-9° C. MS: m/z=421.1 (M+H+).

reactant | 1-methyl-5-(2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 223 μmol, 100 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)C=2C=NC=CC2)=O)C(=O)O | C17H13N7O3
reactant | 3-fluoroazetidine hydrochloride | 669 μmol, 74.7 mg | Cl.FC1CNC1
reactant | propylphosphonic anhydride | 558 μmol, 329 μl | CCCP(=O)=O | C3H7O2P
reactant | N,N-diisopropylethylamine | 1.34 mmol, 228 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofurane | 7 ml | O1CCCC1 | C4H8O
product | 4-(3-fluoroazetidine-1-carbonyl)-1-methyl-N-(2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-5-carboxamide | 36 mg, 37.3% | FC1CN(C1)C(=O)C=1C=NN(C1C(=O)NC1=CC=2N(C=C1)N=C(N2)C=2C=NC=CC2)C | C20H17FN8O2
